US08076324B2
3-Methylsulfanyl-2-nitrophenylamine
20 g of 3-chloro-2-nitroaniline are dissolved in 230 ml of dry DMF. The mixture was cooled to 0° C. and sodium methanethiolate (10 g) was added portionwise. The mixture was stirred for 2 h at 20° C. The solvent was evaporated in vacuo and the residue taken up in water and EA (200 ml each). The aqueous layer was extracted with EA, and the combined organic phases were washed with brine and dried over sodium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography (300 g silica gel; cyclohexane/EA, gradient from 100:0 to 50:50). 8.3 g of the title compound were obtained as a red solid.

reactant | 3-chloro-2-nitroaniline | 20 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium methanethiolate | 10 g | C[S-].[Na+]
solvent | DMF | 230 ml | CN(C)C=O | C3H7NO
product | 3-Methylsulfanyl-2-nitrophenylamine | 8.3 g | CSC=1C(=C(C=CC1)N)[N+](=O)[O-] | C7H8N2O2S
